US09227901B2
N-(1-benzyl-7-methoxy-3,4-dihydronaphthalen-2-yl)propionamide
In a three-necked flask equipped with a Dean-Stark apparatus, heating mantle and magnetic stirrer were charged 1-benzyl-7-methoxy-3,4-dihydronaphthalen-2(1H)-one (120 g, 451 mmol), propionamide (82 g, 1126 mmol) and p-toluenesulfonic acid monohydrate (17.14 g, 90 mmol) followed by toluene (1.8 I). The resulting solution was heated to reflux for 5 days and monitored by HPLC (about 16% of starting material remained). The reaction mixture was cooled to r.t. and washed with 8% aqueous sodium bicarbonate solution (250 ml) and water (250 ml). The layers were separated. The organic layer was concentrated to near dryness and chase distilled with IPA (100 ml). The crude product was transferred to a flask equipped with a mechanical stirrer, heating mantle and nitrogen inlet. IPA (500 ml) was added to the flask and suspension was heated to 62° C. and all the solids were dissolved. The suspension was allowed to cool over 2 hrs to 30° C. then cooled to 5° C. Solids were filtered and washed with mixture of heptane/IPA (4:1, 100 ml). Solids were dried under vacuum to give 93.5 g (yield: 65%) product as a white solid.

reactant | 1-benzyl-7-methoxy-3,4-dihydronaphthalen-2(1H)-one | 451 mmol, 120 g | C(C1=CC=CC=C1)C1C(CCC2=CC=C(C=C12)OC)=O | C18H18O2
reactant | propionamide | 1126 mmol, 82 g | C(CC)(=O)N | C3H7NO
reactant | p-toluenesulfonic acid monohydrate | 90 mmol, 17.14 g | O.C1(=CC=C(C=C1)S(=O)(=O)O)C
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | N-(1-benzyl-7-methoxy-3,4-dihydronaphthalen-2-yl)propionamide | 93.5 g, yield: 65% | C(C1=CC=CC=C1)C1=C(CCC2=CC=C(C=C12)OC)NC(CC)=O | C21H23NO2
